US04661617
To 4-(1-methylpropoxy)phenol (0.84 g, 5.06 mmol) and potassium carbonate (0.66 g, 0.48 mmol) in 10 ml of dimethylformamide (DMF) at 5° is added ethyl 4-bromo-3-methyl-2-butenoate (1.0 g, 0.48 mmol). The mixture is allowed to warm to RT and is stirred at RT for 20 hours. The reaction mixture is poured into water and extracted with ether. The organic layer is washed with 10% sodium hydroxide to remove any starting phenol, dried and the solvent removed. The product is purified by preparative thin layer chromatography (prep. TLC). The second main band is collected to give ethyl (Z)-3-methyl-4-[4-(1-methylpropoxy)phenoxyl]-2-butenoate, MS m/e 292 (M+).

reactant | 4-(1-methylpropoxy)phenol | 5.06 mmol, 0.84 g | CC(CC)OC1=CC=C(C=C1)O | C10H14O2
reactant | potassium carbonate | 0.48 mmol, 0.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromo-3-methyl-2-butenoate | 0.48 mmol, 1.0 g | BrCC(=CC(=O)OCC)C | C7H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl (Z)-3-methyl-4-[4-(1-methylpropoxy)phenoxyl]-2-butenoate | C/C(=C/C(=O)OCC)/COC1=CC=C(C=C1)OC(CC)C | C17H24O4
